* === Uploaded Netlist ===
* Netlist Data

.MODEL NMOS_GLOBEL NMOS LEVEL=6
.MODEL PMOS_GLOBEL PMOS LEVEL=6


.SUBCKT NOT1 OUTPUT INPUT VDD VSS PARAMS: WP=2e-6 WN=1e-6 L=1e-6 M=1
MP0 OUTPUT INPUT VDD VDD PMOS_GLOBEL W=WP L=L M=M
MN0 OUTPUT INPUT VSS VSS NMOS_GLOBEL W=WN L=L M=M
.ENDS

.SUBCKT NAND2 OUTPUT INPUT1 INPUT2 VDD VSS PARAMS: WP=2e-6 WN=1e-6 L=1e-6 M=1
MP0 OUTPUT INPUT1 VDD VDD PMOS_GLOBEL W=WP L=L M=M
MP1 OUTPUT INPUT2 VDD VDD PMOS_GLOBEL W=WP L=L M=M
MN0 OUTPUT INPUT1 NET1 VSS NMOS_GLOBEL W=WN L=L M=M
MN1 NET1   INPUT2 VSS VSS NMOS_GLOBEL W=WN L=L M=M
.ENDS





.SUBCKT NETLIST1 INPUT1 INPUT2 OUTPUT
XNAND1 NET3 INPUT1 NET2 VDD VSS NAND2 WP=0.000002 WN=0.000001 L=0.000001 M=1
XNAND2 NET3 INPUT2 NET5 VDD VSS NAND2 WP=0.000002 WN=0.000001 L=0.000001 M=1
XNOT1 OUTPUT NET3 VDD VSS NOT1 WP=0.000002 WN=0.000001 L=0.000001 M=1
.ENDS


* === Auto-generated Testbench ===
.options method=trap reltol=1e-3 maxord=2
.temp 25.0

* Sources
VDD_SRC VDD 0 1.2
VSS_SRC VSS 0 0
VIN_INPUT INPUT 0 PULSE(0.0 1.2 0.0 1e-11 1e-11 5e-10 1e-09)

* DUT
XU1 OUTPUT INPUT VDD VSS NOT1

* Loads
CLOAD_OUTPUT OUTPUT 0 5e-15

.tran 1e-12 3.0000000000000004e-09
.save time v(OUTPUT) v(INPUT) v(VDD) v(VSS)

.control
  set noaskquit
  set nomoremode
  set wr_singlescale
  set filetype=ascii
  run
  wrdata D:\wave-web\wave-backend\runs\u_20251016-121853-42cec7\sim.csv time v(OUTPUT) v(INPUT) v(VDD) v(VSS)
.endc


.end